US07553854B2
Step 5. Preparation of (S)-6-(2-chloropyridin-4-yloxy)-N-(1-(ethylsulfonyl)piperidin-3-yl)benzo[d]thiazol-2-amine
To a mixture of (S)-2-(1-(ethylsulfonyl)piperidin-3-ylamino)benzo[d]thiazol-6-ol (1.15 g, 3.37 mmol) and cesium carbonate (2.20 g, 6.74 mmole) in 12 ml of NMP was added 2-chloro-4-fluoropyridine (532 mg, 4.05 mmol). The reaction mixture was stirred at 60° C. for 17 hours. The reaction mixture was diluted with water (100 ml) and ethyl acetate (100 ml). The separated organic layer was washed with water (3×50 ml), saturated sodium bicarbonate solution (3×50 ml), water (50 ml), brine (100 ml) and dried over sodium sulfate. Concentration in vacuo and purification by flash chromatography over silica gel with ethyl acetate:hexane (1:1 to 3:1) provided the title compound. Yield: 671 mg. ES/MS m/z 453.0 (MH+), Rt=2.59 min.

reactant | (S)-2-(1-(ethylsulfonyl)piperidin-3-ylamino)benzo[d]thiazol-6-ol | 3.37 mmol, 1.15 g | C(C)S(=O)(=O)N1C[C@H](CCC1)NC=1SC2=C(N1)C=CC(=C2)O | C14H19N3O3S2
reactant | cesium carbonate | 6.74 mmole, 2.20 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloro-4-fluoropyridine | 4.05 mmol, 532 mg | ClC1=NC=CC(=C1)F | C5H3ClFN
solvent | NMP | 12 ml | CN1CCCC1=O | C5H9NO
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (S)-6-(2-chloropyridin-4-yloxy)-N-(1-(ethylsulfonyl)piperidin-3-yl)benzo[d]thiazol-2-amine | ClC1=NC=CC(=C1)OC1=CC2=C(N=C(S2)N[C@@H]2CN(CCC2)S(=O)(=O)CC)C=C1 | C19H21ClN4O3S2
